US04985419
A solution of 10-{(2RS)-1-[N-ethyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbonitrile (2.3 g) and triethylamine in anhydrous pyridine (46 cc) is treated with hydrogen sulphide and stirred for 16 hours at a temperature in the region of 20° C. The greenish solution obtained is purged with nitrogen, poured into distilled water (200 cc) and extracted with ethyl acetate (200 cc and then 100 cc). The combined organic phases are washed with distilled water (3×100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (4 g) is purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (75:25 by volume) (750 cc) of ethyl acetate and cyclohexane and collecting 60-cc fractions. The combined fractions 6 to 10 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-((2RS)-1-[N-Ethyl-N-(1-methylethyl)-amino]-2-propyl}-2-phenothiazinecarbothioamide (2.5 g) is thereby obtained in the form of a yellow oil.

reactant | 10-{(2RS)-1-[N-ethyl-N-(1-methylethyl)amino]-2-propyl}-2-phenothiazinecarbonitrile | 2.3 g | C(C)N(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C21H25N3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 46 cc | N1=CC=CC=C1 | C5H5N
product | 10-((2RS)-1-[N-Ethyl-N-(1-methylethyl)-amino]-2-propyl}-2-phenothiazinecarbothioamide | 2.5 g | C(C)N(C(C)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C21H27N3S2
